US08211908B2
To a solution of 48 mg of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(piperidin-4-yl)carbamate in 2 mL of methanol, 50 mg of (3-oxo-6-(1H-1,2,4-triazol-1-yl)pyrido(2,3-b)pyrazin-4(3H)-yl)acetaldehyde, 2.5 mL of dichloromethane and 20 μL of acetic acid were added, and the mixture was stirred at room temperature for 40 minutes. To the reaction mixture, 9.0 mg of sodium cyanoborohydride was added, and the mixture was stirred at room temperature for 1 hour 30 minutes. Thereto were added a saturated aqueous sodium hydrogen carbonate solution and chloroform, the organic layer was separated, washed sequentially with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=50:1 to obtain 35 mg of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(3-oxo-6-(1H-1,2,4-triazol-1-yl)pyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate as a light yellow oily substance.

reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(piperidin-4-yl)carbamate | 48 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | (3-oxo-6-(1H-1,2,4-triazol-1-yl)pyrido(2,3-b)pyrazin-4(3H)-yl)acetaldehyde | 50 mg | O=C1C=NC2=C(N1CC=O)N=C(C=C2)N2N=CN=C2 | C11H8N6O2
reactant | sodium cyanoborohydride | 9.0 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 20 μL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(3-oxo-6-(1H-1,2,4-triazol-1-yl)pyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate | 35 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C1=C(N=CC2=O)C=CC(=N1)N1N=CN=C1 | C29H35N9O5
